US04590186
A mixture of sodium 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate (syn isomer)(6.43 g), 1-methyl-5,6-dihydro-1H,4H-cyclopenta[c]pyrazole (3.2 g), sodium iodide (20.54 g), phosphoric acid (0.67 g), water (2.8 ml) and acetonitrile (8.5 ml) was stirred at 70° to 75° C. for 2 hours. The reaction mixture was poured into water (100 ml) and the aqueous layer was adjusted to pH 2.0 with 10% hydrochloric acid. After removal of precipitates by filtration, the aqueous solution was washed with ethyl acetate four times. The aqueous layer was adjusted to pH 2.5 with 5% aqueous solution of sodium bicarbonate and subjected to column chromatography on macroporous non-ionic adsorption resin Diaion HP-20 (Trademark : prepared by Mitsubishi Chemical Industries). The column was washed with water and eluted with 50% aqueous methanol. The fractions containing the object compound were combined and methanol was evaporated under reduced pressure. The resultant aqueous solution was lyophilized to give 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetamido]-3-[1-methyl-5,6-dihydro-2(1H,4H)-cyclopenta[c]pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer)(1.3 g).

reactant | sodium 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate | 6.43 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)[O-])C1=O)C1=NSC(=N1)N.[Na+]
reactant | 1-methyl-5,6-dihydro-1H,4H-cyclopenta[c]pyrazole | 3.2 g | CN1N=CC2=C1CCC2 | C7H10N2
reactant | sodium iodide | 20.54 g | [I-].[Na+]
reactant | phosphoric acid | 0.67 g | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | acetonitrile | 8.5 ml | C(C)#N | C2H3N
solvent | water | 2.8 ml | O | H2O
product | 7-[2-allyloxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetamido]-3-[1-methyl-5,6-dihydro-2(1H,4H)-cyclopenta[c]pyrazolio]methyl-3-cephem-4-carboxylate | 1.3 g | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]=2N(C3=C(C2)CCC3)C)C(=O)[O-])C1=O)C1=NSC(=N1)N | C22H24N8O5S2
